US07335660B2
To a solution of (1S)-1-{2-[(2S)-4-(6-fluoro-1-naphthyl)-2-methyl-piperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine (0.217 g, mmol) in dry DMF (5 mL) was added pyridine (0.05 mL, mmol) and 2-chloroethyl chloroformate (0.055 mL, mmol), and the reaction stirred at room temperature under nitrogen for 2 h. The reaction was quenched by addition of 2M sodium hydroxide (3 mL), diluted with water and extracted into dichloromethane. The combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by prep LCMS to yield 3-((1S)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]-ethyl}-3,4-dihydro-1H-2-benzopyran-6-yl)-1,3-oxazolidin-2-one. M+H=490.

reactant | (1S)-1-{2-[(2S)-4-(6-fluoro-1-naphthyl)-2-methyl-piperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine | 0.217 g | FC=1C=C2C=CC=C(C2=CC1)N1C[C@@H](N(CC1)CC[C@@H]1OCCC2=C1C=CC(=C2)N)C | C26H30FN3O
reactant | pyridine | 0.05 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloroethyl chloroformate | 0.055 mL | ClC(=O)OCCCl | C3H4Cl2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-((1S)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]-ethyl}-3,4-dihydro-1H-2-benzopyran-6-yl)-1,3-oxazolidin-2-one | FC=1C=C2C=CC=C(C2=CC1)N1C[C@H](N(CC1)CC[C@@H]1OCCC2=C1C=CC(=C2)N2C(OCC2)=O)C | C29H32FN3O3
